US04985432
Five point six (5.6) grams of the thus obtained 2-amino-5-benzylthio-1,3,4-thiadiazole and 3.6 g of ethyl 3-hydroxy-2-methyl-2-propenoate were mixed with 7.5 g of polyphosphoric acid, and the mixture was stirred at 130°-150° C. for 45 minutes. After cooling, water was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was washed with an aqueous sodium hydrogen carbonate solution and water respectively, and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was recrystallized from ethanol. Thus 4.4 g of 2-benzylthio-6-methyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained. m.p. 130°-132° C. Yield 61%.

reactant | 2-amino-5-benzylthio-1,3,4-thiadiazole | NC=1SC(=NN1)SCC1=CC=CC=C1 | C9H9N3S2
reactant | ethyl 3-hydroxy-2-methyl-2-propenoate | 3.6 g | OC=C(C(=O)OCC)C | C6H10O3
solvent | water | O | H2O
product | 2-benzylthio-6-methyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 4.4 g, Yield 61% | C(C1=CC=CC=C1)SC1=NN2C(=NC=C(C2=O)C)S1 | C13H11N3OS2
